### PR TITLE
chore(CategoryTheory/CatCommSq): remove an erw

### PR DESCRIPTION
**Pull request by yuanyi-350**
- rewrites `hInv_hInv` by using `conv_rhs` with `iso_hom_naturality`
- removes the `rw`/`erw` pair around `Functor.comp_map`

Extracted from #38415

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/CatCommSq.lean
Comment (loefflerd) [inline Mathlib/CategoryTheory/CatCommSq.lean]: There are lots more things wrong with this proof than just the `erw`; there's the `set_option`, and a lot of steps of simp only / rw / dsimp. I think it should be reworked properly. The best I can find is
```lean
set_option backward.isDefEq.respectTransparency false in
lemma hInv_hInv (h : CatCommSq T.functor L R B.functor) :
    hInv T.symm R L B.symm (hInv T L R B h) = h := by
  ext X
  rw [← cancel_mono (B.functor.map (L.map (T.unitIso.hom.app X)))]
  conv_rhs => simp only [Equivalence.symm_inverse, ← iso_hom_naturality]
  simp_rw [hInv_iso_hom_app, Equivalence.symm_functor, hInv_iso_inv_app,
    Equivalence.symm_inverse, Equivalence.symm_unitIso, Equivalence.counitInv_app_functor,
    ← map_comp, assoc, ← map_comp, assoc, ← map_comp]
  simp
```
which is much shorter, but still has the `set_option`.
